US07960376B2
Step 4: Preparation of methyl 3-amino-4-(4-chloro-2-methylbutan-2-ylthio)benzoate
To a solution of methyl 4-(4-chloro-2-methylbutan-2-ylthio)-3-nitrobenzoate (3.43 g, 10.8 mmol) in AcOH (100 mL) was added iron (2.413 g, 43.2 mmol). The reaction was heated to 70° C. and stirred at that temperature for 2 hours. The solvent was removed under reduced pressure and the resulting paste was diluted with H2O (250 mL). The solution was treated with K3PO4 until pH=6. The aqueous layer was extracted with EtOAc (3×150 mL). The combined organics were washed with saturated aqueous NaHCO3 (50 mL) and brine (50 mL) then dried over Na2SO4 and concentrated in vacuo. The product was isolated as a brown solid and used without further purification.

reactant | methyl 4-(4-chloro-2-methylbutan-2-ylthio)-3-nitrobenzoate | 10.8 mmol, 3.43 g | ClCCC(C)(SC1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-])C | C13H16ClNO4S
solvent | AcOH | 100 mL | CC(=O)O | C2H4O2
catalyst | iron | 43.2 mmol, 2.413 g | [Fe] | Fe
product | methyl 3-amino-4-(4-chloro-2-methylbutan-2-ylthio)benzoate | NC=1C=C(C(=O)OC)C=CC1SC(C)(CCCl)C | C13H18ClNO2S
